US09169261B2
To a solution of (S)-5-bromo-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.25 g, 0.65 mmol, 1 eq) in 2 mL of toluene was added 2-cyclopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.16 g, 1.86 mmol, 2.8 eq), followed by PCy3 (0.033 g, 0.11 mmol, 0.2 eq), K3PO4 (0.48 g, 2.3 mmol, 3.5 eq) in 0.1 mL of H2O and Pd(OAc)2 (0.013 g, 0.06 mmol, 0.1 eq). After heating for 1 h at 120° C. the mixture was filtered and purified by HPLC to afford (S)-5-cyclopropyl-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.009 g, 0.026 mmol, 4%). 1H NMR (400 MHz, CD3OD) δ 8.64 (s, 2 H), 7.76 (m, 1 H), 7.71 (d, J=5.4 Hz, 1 H), 7.54 (s, 1 H), 6.92 (dd, J=2.6, 4.4 Hz, 1 H), 6.84 (d, J=5.5 Hz, 1 H), 5.00-3.60 (br, 5 H), 2.65-2.30 (br, 2 H), 2.07-2.02 (m, 1 H), 1.23-1.18 (m, 2 H), 0.96-0.91 (m, 2 H); MS: (ES) m/z calculated for C19H20N6O [M+H]+ 349.2, found 349.

reactant | (S)-5-bromo-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.65 mmol, 0.25 g, 1 eq | BrC=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C16H15BrN6O
reactant | 2-cyclopropyl-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.86 mmol, 0.16 g, 2.8 eq | C1(CC1)B1OC(C(O1)(C)C)(C)C | C9H17BO2
reactant | PCy3 | 0.11 mmol, 0.033 g, 0.2 eq | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | K3PO4 | 2.3 mmol, 0.48 g, 3.5 eq | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 0.1 mL | O | H2O
catalyst | Pd(OAc)2 | 0.06 mmol, 0.013 g, 0.1 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-5-cyclopropyl-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.026 mmol, 0.009 g, 4% | C1(CC1)C=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C19H20N6O
